US05591613
100 ml of a 1.25 molar, racemic solution of DL-arginine are mixed with 5·10-4 mol/l MnSO4.H2O, 2.5·10-4 mol/1 ascorbic acid and 14.0 mg L-arginase (=10000 U/(l·mol L-Arg)). After 22 hours, the conversion was 50% of the original amount of arginine and a corresponding amount of ornithine had been produced.

reactant | DL-arginine | NC(CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | L-Arg | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
catalyst | MnSO4.H2O | 10-4 mol/l | [O-]S(=O)(=O)[O-].[Mn+2].O
product | ornithine | N[C@@H](CCCN)C(=O)O | C5H12N2O2
